US09163027B2
5,7-diethyl-2-[-2-(4-chlorophenoxy)ethoxy]-[1,2,4]triazolo[1,5-a]pyrimidine
The title compound was prepared according to the experimentals described for Example 14 above from 2-methanesulfonyl-5,7-diethyl-[1,2,4]triazolo[1,5-a]pyrimidine and 2-(4-chlorophenoxy)ethan-1-ol in 80% yield. EM (calc.): 346.1; MS (ESI) m/e: 347.3 (M+H)+.

reactant | 2-methanesulfonyl-5,7-diethyl-[1,2,4]triazolo[1,5-a]pyrimidine | CS(=O)(=O)C1=NN2C(N=C(C=C2CC)CC)=N1 | C10H14N4O2S
reactant | 2-(4-chlorophenoxy)ethan-1-ol | ClC1=CC=C(OCCO)C=C1 | C8H9ClO2
product | 5,7-diethyl-2-[-2-(4-chlorophenoxy)ethoxy]-[1,2,4]triazolo[1,5-a]pyrimidine | 80% yield | C(C)C1=NC=2N(C(=C1)CC)N=C(N2)OCCOC2=CC=C(C=C2)Cl | C17H19ClN4O2
